US07893099B2
Step 4: 3-(2-Chloro-benzenesulfonyl)-cyclopentanecarboxylic acid methyl ester
A solution of 3-(2-chloro-phenylsulfanyl)-cyclopentanecarboxylic acid methyl ester (0.24 g, 1.0 eq) in dichloromethane (10 mL) was treated at 0° C. with a solution of MCPBA (1.1 g, 5.0 eq) in dichloromethane (7 mL), which was added dropwise. The mixture was stirred at 0° C. for 3 h, then treated with 20% sodium bisulfite and stirred at RT for 15 min. The mixture was filtered, washing with chloroform. The organic phase was washed with saturated sodium bicarbonate, dried over sodium sulfate and evaporated. The residue was purified by flash chromatography on silica gel with a heptane/ethyl acetate gradient, yielding the title compound as a colorless oil (0.25 g, 90%). MS (ESI): m/z=303.2 [M+H]+.

reactant | 3-(2-chloro-phenylsulfanyl)-cyclopentanecarboxylic acid methyl ester | 0.24 g, 1.0 eq | COC(=O)C1CC(CC1)SC1=C(C=CC=C1)Cl | C13H15ClO2S
reactant | MCPBA | 1.1 g, 5.0 eq | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 3-(2-Chloro-benzenesulfonyl)-cyclopentanecarboxylic acid methyl ester | 0.25 g, 90% | COC(=O)C1CC(CC1)S(=O)(=O)C1=C(C=CC=C1)Cl | C13H15ClO4S
